US03959322
Add 5-(3,4-methylenedioxyphenyl)pent-1-yne (24.5 g) in dioxan (15 cc) to a mixture of diethylamine (16 g), trioxan (7.2 g) and cuprous chloride (0.3 g) in dioxan (20 cc) and heat the mixture at 100° for 15 hours under an atmosphere of nitrogen. Filter the cooled solution, remove the solvent and distil the residue at 0.1 mm Hg to obtain 1-diethylamino-6-(3,4-methylenedioxyphenyl)-hex-2-yne after a forerun of more volatile material.

reactant | 5-(3,4-methylenedioxyphenyl)pent-1-yne | 24.5 g | C1OC=2C=C(C=CC2O1)CCCC#C | C12H12O2
reactant | diethylamine | 16 g | C(C)NCC | C4H11N
reactant | trioxan | 7.2 g | O1OOCCC1 | C3H6O3
solvent | dioxan | 15 cc | O1CCOCC1 | C4H8O2
solvent | dioxan | 20 cc | O1CCOCC1 | C4H8O2
product | 1-diethylamino-6-(3,4-methylenedioxyphenyl)-hex-2-yne | C(C)N(CC#CCCCC1=CC2=C(C=C1)OCO2)CC | C17H23NO2
